US08383644B2
(S)-2-{[(3S,8S)-3-{4-[2-(4-Chloro-phenyl)-ethoxy]-phenyl}-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(3S,8S)-8-{(S)-2-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (30 mg) was dissolved in DCM and 2(4-chloro-phenyl)-ethanol (5 equiv), triphenyl phosphine (5 eq.) and DIAD (4.5 eq.) added. The reaction mixture stirred at room temperature and was directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH). The resulting compound was dissolved in 2 mL DCM and 1 mL 4N HCl (dioxane) added. The mixture stirred at room temperature for 1.5 hours and was concentrated. The residue was suspended in DCM, TEA (3 eq.) added the mixture used in the following reaction sequence. In a separate vial EDC (3 eq.) and 2,5-dimethyl-oxazole-4-carboxylic acid (6 eq.) were dissolved in DCM and stirred 40 minutes. This solution was added to the above mixture stirred 12 hours. The reaction mixture was directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH to 1:1 hexanes EtOAc+2% MeOH to 1:1 hexanes EtOAc+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound. LCMS (m/z): 842.

reactant | (3S,8S)-8-{(S)-2-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 30 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)O | C40H43N3O8
reactant | 2(4-chloro-phenyl)-ethanol | 5 equiv | ClC1=CC=C(C=C1)CCO | C8H9ClO
reactant | triphenyl phosphine | 5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 4.5 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | EDC | 3 eq.
reactant | 2,5-dimethyl-oxazole-4-carboxylic acid | 6 eq. | CC=1OC(=C(N1)C(=O)O)C | C6H7NO3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-{[(3S,8S)-3-{4-[2-(4-Chloro-phenyl)-ethoxy]-phenyl}-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | ClC1=CC=C(C=C1)CCOC1=CC=C(C=C1)[C@@H]1OC=2C(=CC=3C[C@H](N(CC3C2)C(=O)C=2N=C(OC2C)C)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=C(C(=NC=C2)C)C)OC1 | C48H45ClN4O8
